Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-1.09869342526
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3][H:4],5.520156087409999
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.3577109536300025
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-1.51802028475
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4],2.29931499666
[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.8987206436
[C:1].[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-7.330926654039999
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.06719981867
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],2.05313467179
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.21792725181
[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-0.38112348691
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:11]([H:12])([H:13])[H:14],4.32431504269
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.32504074554
[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-7.2842674614600025
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.88711438124
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.60957640386
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.6861890821099998
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[H:9],3.72597466792
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11][H:12].[H:8],3.6596930881
[C:1]=[O:2].[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],1.14226811934
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.02983630642
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.15314377121
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.67382996432
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],4.9269887406
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:3][H:4],6.04170549017
[C:2]([H:3])([H:4])=[C:5][O:6][H:7].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],-2.43930400764
[H:1][C:2]#[C:3][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.17475435284
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[H:11].[H:7],4.93059061159
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],3.9447461054300006
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[O:11],2.06141328317
